US06346527B1
A mixture of ethyl 3-benzyloxy-2-(3-ethoxycarbonylpropyloxy)benzoate (2.5 g) and palladium on charcoal (0.25 g) in ethanol (12.5 ml) was hydrogenated under hydrogen atmosphere. The catalyst was filtered off. The filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography using a mixture of ethyl acetate and n-hexane (1:3) to give colorless oil of ethyl 3-hydroxy-2-(3-ethoxycarbonylpropyloxy)benzoate (1.86 g).

reactant | ethyl 3-benzyloxy-2-(3-ethoxycarbonylpropyloxy)benzoate | 2.5 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)OCC)C=CC1)OCCCC(=O)OCC | C22H26O6
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
product | ethyl 3-hydroxy-2-(3-ethoxycarbonylpropyloxy)benzoate | 1.86 g | OC=1C(=C(C(=O)OCC)C=CC1)OCCCC(=O)OCC | C15H20O6
